US06664412B2
5-(4-Methyl-4-nitropentyl)hydantoin is hydrolyzed with alkali to give 2-amino-6-methyl-6-nitroheptanoic acid (see JP-A-11-140076). For example, 5-(4-methyl-4-nitropentyl)hydantoin is hydrolyzed in an aqueous solution preferably in the presence of 1-3 equivalents of alkali, such as sodium hydroxide, potassium hydroxide, sodium carbonate, potassium carbonate, calcium hydroxide, barium hydroxide and the like, relative to 5-(4-methyl-4-nitropentyl)hydantoin generally at 20-200° C., preferably 100-150° C. The reaction mixture is concentrated to dryness to give 2-amino-6-methyl-6-nitroheptanoic acid. The obtained 2-amino-6-methyl-6-nitroheptanoic acid can be isolated and/or purified by a conventional method, such as crystallization, chromatography and the like, but generally, can be used in the next step without isolation and/or purification.

reactant | 5-(4-methyl-4-nitropentyl)hydantoin | CC(CCCC1C(NC(N1)=O)=O)(C)[N+](=O)[O-] | C9H15N3O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
product | 2-amino-6-methyl-6-nitroheptanoic acid | NC(C(=O)O)CCCC(C)([N+](=O)[O-])C | C8H16N2O4
